US04055561
Following essentially the same procedure described in Example IV above and substituting ρ-(fluoren-9-ylidenemethyl)-α-methylbenzylamine hydrochloride for the α-methyl-ρ-phenethylbenzylamine hydrochloride above results in the formation of 2-[[1-[ρ-(fluoren-9-ylidenemethyl)phenyl]ethylimino]]-hexahydro-1H-azepine, having a M.P. of 265.5°-7.5° C. (dec.)

reactant | ρ-(fluoren-9-ylidenemethyl)-α-methylbenzylamine hydrochloride | Cl.C1=CC=CC=2C3=CC=CC=C3C(C12)=CC1=CC=C(C(C)N)C=C1
reactant | α-methyl-ρ-phenethylbenzylamine hydrochloride | Cl.CC(C1=CC=C(C=C1)CCC1=CC=CC=C1)N
product | 2-[[1-[ρ-(fluoren-9-ylidenemethyl)phenyl]ethylimino]]-hexahydro-1H-azepine | C1=CC=CC=2C3=CC=CC=C3C(C12)=CC1=CC=C(C=C1)C(C)N=C1NCCCCC1 | C28H28N2
